US08202865B2
Step 1: tert-butyl N-(5-cyano-2-fluorobenzyl)-N-methylglycinate
A mixture of 5-cyano-2-fluorobenzylbromide (CARBOCORE; CO-0137; 1.50 g; 7.01 mmol; 1 eq.), sarcosine tert-butyl ester hydrochloride (BACHEM; F-1135; 1 527.73 mg; 8.41 mmol; 1.20 eq.) and potassium carbonate (2.91 g; 21.02 mmol; 3 eq.) in CH3CN (25 mL) was stirred at 60° C. for 6 hours then at RT for one night. The acetonitrile was evaporated in vacuo and the resulting mixture diluted with water. Extraction with EtOAc, washing with NaCl sat. solution, drying over magnesium sulfate and concentration in vacuo gave the title compound as a slightly yellow oil (1.9 g; 97%). 1H NMR (CDCl3) δ 7.86 (dd, J=6.5, 2.0 Hz, 1H), 7.59-7.53 (m, 1H), 7.13 (t, J=9.0 Hz, 1H), 3.78 (s, 2H), 3.23 (s, 2H), 2.38 (s, 3H), 1.49 (s, 9H). 19F NMR (CDCl3) δ-108.3. GC/MS: 278. LC/MS (Method B): 279.1 (M+H)+. HPLC (Method A) Rt 2.25 min (Purity: 91.4%).

reactant | 5-cyano-2-fluorobenzylbromide | 7.01 mmol, 1.50 g, 1 eq. | C(#N)C=1C=CC(=C(CBr)C1)F | C8H5BrFN
reactant | sarcosine tert-butyl ester hydrochloride | 8.41 mmol, 527.73 mg, 1.20 eq. | Cl.C(C)(C)(C)OC(CNC)=O
reactant | potassium carbonate | 21.02 mmol, 2.91 g, 3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | tert-butyl N-(5-cyano-2-fluorobenzyl)-N-methylglycinate | C(#N)C=1C=CC(=C(CN(CC(=O)OC(C)(C)C)C)C1)F | C15H19FN2O2
